US04954164
(2) Synthesis of 5-benzylthio-1,3-dimethyl-4-nitropyrazole
Benzylmercaptan (50.8 g) (0.41 mol) was added to 21 g of sodium methoxide in 480 ml of DMF under ice-cooling and then 65.2 g (0.37 ml) of 5-chloro-2,3-dimethyl-4-nitropyrazole was added. After stirring at room temperature for 3 hr., DMF was evaporated under reduced pressure, and the residue was diluted with ice-water. The precipitated solids were filtered, washed with water and further with n-hexane and dried to give 82.4 g of the title compound. m.p. 82 -83° C.

reactant | Benzylmercaptan | 0.41 mol, 50.8 g | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium methoxide | 21 g | C[O-].[Na+]
reactant | 5-chloro-2,3-dimethyl-4-nitropyrazole | 0.37 ml, 65.2 g | ClC=1C(=C(N(N1)C)C)[N+](=O)[O-] | C5H6ClN3O2
solvent | DMF | 480 ml | CN(C)C=O | C3H7NO
product | 5-benzylthio-1,3-dimethyl-4-nitropyrazole | 82.4 g | C(C1=CC=CC=C1)SC1=C(C(=NN1C)C)[N+](=O)[O-] | C12H13N3O2S
